US07208505B2
An intimate mixture of 2-(thien-3-yl)anisole (1.2 g, 4 mmol) and 6.0 g (50 mmol) of pyridinium hydrochloride is heated for 20 minutes to 200° C. (1000 W MW, microwave). The mixture is allowed to cool to room temperature then is extracted with ethyl acetate and dichloromethane. The organic extracts are washed with water, dried over sodium sulfate and evaporated. The residue is purified via flash column on silica (eluent: 100% hexane>hexane/ethyl acetate 9:1 gradient) to give 700 mg of 2-(thien-3-yl)phenol (97%). M+=176.

reactant | 2-(thien-3-yl)anisole | 4 mmol, 1.2 g | S1C=C(C=C1)C1=C(C=CC=C1)OC | C11H10OS
reactant | pyridinium hydrochloride | 50 mmol, 6.0 g | Cl.[NH+]1=CC=CC=C1
product | 2-(thien-3-yl)phenol | 700 mg, 97% | S1C=C(C=C1)C1=C(C=CC=C1)O | C10H8OS
